US05703240
2-(4-Nitro-phenyl)-2H -tetrazole
A mixture of 1-fluoro-4-nitrobenzene (20 g), potassium carbonate (23.5 g) and 1H-tetrazole (12 g) in dimethylformamide (60 ml) was heated to 100° under nitrogen for 24 h. On cooling, the solvent was evaporated and the residue taken up in water, extracted with dichloromethane (4×100 ml), dried (Na2SO4) and evaporated to give an orange solid. This was purified by FCC (cyclohexane/ethyl acetate (3:1)) to give the title compound as a solid (6.5 g). T.l.c. (Cyclohexane/ethyl acetate (3:10), Rf 0.43.

reactant | 1-fluoro-4-nitrobenzene | 20 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 23.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1H-tetrazole | 12 g | N1N=NN=C1 | CH2N4
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 2-(4-Nitro-phenyl)-2H -tetrazole | 6.5 g | [N+](=O)([O-])C1=CC=C(C=C1)N1N=CN=N1 | C7H5N5O2
